US04106942
Step 1: Preparation of Ethyl (2-n-Octadecylthio-2-methylpropionyl)acetate
A mixture of 14.3 g of stearylmercaptan and 200 ml of anhydrous benzene was heated with stirring, to which 1.2 g of sodium hydride was gradually added. To the reaction slurry in an ice bath, a solution containing 13.2 g of ethyl (2-bromo-2-methylpropionyl)acetate and 20 ml of anhydrous benzene was gradually added with stirring. After the completion of the addition, the reaction mixture was removed from the ice bath and stirred for three hours. The reaction mixture was then poured into ice water and neutralized by addition of glacial acetic acid. The mixture was extracted with 300 ml of ethyl acetate, the extract was washed twice with a saturated aqueous sodium chloride solution. The ethyl acetate phase was dried with anhydrous sodium carbonate. After distilling off the ethyl acetate, the residue was purified using silica gel chromatography (eluting solvent: chloroform) to obtain 16.2 g (yield 62%) of the intended compound having a melting point of 34° to 37° C.

reactant | stearylmercaptan | 14.3 g | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | ethyl (2-bromo-2-methylpropionyl)acetate | 13.2 g | BrC(C(=O)CC(=O)OCC)(C)C | C8H13BrO3
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | Ethyl (2-n-Octadecylthio-2-methylpropionyl)acetate | 16.2 g, yield 62% | C(CCCCCCCCCCCCCCCCC)SC(C(=O)CC(=O)OCC)(C)C | C26H50O3S
